US04239846
EXAMPLE 4--Synthesis of 2-acetylpyridine (1-C) tellurium trichloride
To a solution of 22.5 g (187 mmoles) 2-acetylpyridine dissolved in 350 ml of purified chloroform was added 25 g (93 mmoles) of TeCl4. The reaction solution was refluxed for 10 hours under an argon atmosphere, a red-brown solid forming. The reaction solution was filtered and the solid washed with chloroform and air dried to give 32 g of red-brown solid (m.p.: gums 85° C., murky red melt by 110° C.). This product is insoluble in CHCl3, CH2Cl2, acetone and benzene, but soluble in dimethylformamide. Elemental analysis confirmed the presence of the title compound.

reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | acetone | CC(=O)C | C3H6O
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 2-acetylpyridine | C(C)(=O)C1=NC=CC=C1 | C7H7NO
